US04452808
A mixture of 0.9 g of 4-(2-aminoethyl)-2(3H)-indolone, 0.23 g of 4-benzyloxyphenylacetaldehyde, 0.25 g of 10% palladium-on-charcoal and 100 ml of ethanol is hydrogenated at 50 p.s.i. at 50° until the uptake of hydrogen is complete. After filtration, the mother liquors are evaporated to give 4-[2(4-hydroxyphenethylamino)-ethyl]-2(3H)-indolone as the residue. This base in alcohol is treated with an excess of methylsulfonic acid to give the methylsulfonate salt.

reactant | 4-(2-aminoethyl)-2(3H)-indolone | 0.9 g | NCCC1=C2CC(NC2=CC=C1)=O | C10H12N2O
reactant | 4-benzyloxyphenylacetaldehyde | 0.23 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC=O | C15H14O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | 0.25 g | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-[2(4-hydroxyphenethylamino)-ethyl]-2(3H)-indolone | OC1=CC=C(CCNCCC2=C3CC(NC3=CC=C2)=O)C=C1 | C18H20N2O2
